US06444656B1
To a solution of Benzoic acid 5-(diisopropoxy-phosphoryl)-3-methoxy-tetrahydro-furan-2-ylmethyl ester (266 mg, 0.66 mmol) in methanol (3 mL) was added potassium carbonate (45 mg, 0.33 mmol) and stirred for 5 hours at RT. Dowex acidic resin was added until neutral pH was attained, the reaction mixture filtered and concentrated to give (5-Hydroxymethyl-4-methoxy-tetrahydro-furan-2-yl)-phosphonic acid diisopropyl ester (168 mg, 85%).

reactant | Benzoic acid 5-(diisopropoxy-phosphoryl)-3-methoxy-tetrahydro-furan-2-ylmethyl ester | 0.66 mmol, 266 mg | C(C)(C)OP(=O)(OC(C)C)C1CC(C(O1)COC(C1=CC=CC=C1)=O)OC | C19H29O7P
reactant | potassium carbonate | 0.33 mmol, 45 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 3 mL | CO | CH4O
product | (5-Hydroxymethyl-4-methoxy-tetrahydro-furan-2-yl)-phosphonic acid diisopropyl ester | 168 mg, 85% | C(C)(C)OP(OC(C)C)(=O)C1OC(C(C1)OC)CO | C12H25O6P
